US05238938
In 25 ml of dimethylformamide were dissolved 2.00 g of 6-allyloxy-5-amino-3-isobutyl-1,2-dihydropyrazin-2-one 4-oxide and 570 mg of potassium carbonate. Thereto was added 1.05 ml of benzyl bromide. The mixture was stirred for 1.5 hours at room temperature. After completion of the reaction, 200 ml of ethyl acetate was added to the reaction mixture. The resulting mixture was washed with water. The aqueous layer was extracted with 50 ml of ethyl acetate twice. The extract was combined with the above ethyl acetate layer. The combined mixture was washed with an aqueous solution saturated with NaCl, and dried with magnesium sulfate, then the solvent was removed by evaporation. The residue was purified by a silica gel column chromatography (eluting solvent: 40% by volume of ethyl acetate-n-hexane), followed by recrystallization from n-hexane to obtain 1.57 g of 3-allyloxymethyl-2-amino-5-benzyloxy-6-isobutylpyrazine 1-oxide (Compound B-4) as white fine needle-like crystals having a melting point of 56.3°-57.2° C.

reactant | 6-allyloxy-5-amino-3-isobutyl-1,2-dihydropyrazin-2-one 4-oxide | 2.00 g | C(C=C)OC1=C([N+](=C(C(N1)=O)CC(C)C)[O-])N | C11H17N3O3
reactant | potassium carbonate | 570 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.05 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-allyloxymethyl-2-amino-5-benzyloxy-6-isobutylpyrazine 1-oxide | 1.57 g | C(C=C)OCC=1C(=[N+](C(=C(N1)OCC1=CC=CC=C1)CC(C)C)[O-])N | C19H25N3O3
